US06943159B1
A mixture of 4-bromo-2-aminobenzenesulfonamide (250 mg, 1.0 mmol), diethyl-3-pyridylborane (225 mg, 1.5 mmol), Pd(PPh3)2Cl2 (35 mg, 5 mol %) in 1,2-dimethoxyethane 30 ml) and Na2CO3 (2M, 3 ml, 6 mmol) were refluxed under N2 for 4 h. The solvents were removed under reduced pressure and the residue was treated with saturated NaHCO3 (20 ml) and extracted with EtOAc (2×40 ml). The organic layer was washed with brine (20 ml), dried (Na2SO4) and the solvent was removed under reduced pressure. The product was purified by flash chromatography on SiO2 using EtOAc:n-hexane (1:1, v/v) as eluent, yielding 240 mg (96%) of 2-amino-4-(3-pyridyl)-benzenesulfonamide as colorless powder. The product was further transformed by Method G (using cyclohexanecarboxaldehyde). M.p. 240-243° C.

reactant | 4-bromo-2-aminobenzenesulfonamide | 1.0 mmol, 250 mg | BrC1=CC(=C(C=C1)S(=O)(=O)N)N | C6H7BrN2O2S
reactant | diethyl-3-pyridylborane | 1.5 mmol, 225 mg | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | Na2CO3 | 6 mmol, 2M, 3 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 30 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)2Cl2 | 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-amino-4-(3-pyridyl)-benzenesulfonamide | 240 mg, 96% | NC1=C(C=CC(=C1)C=1C=NC=CC1)S(=O)(=O)N | C11H11N3O2S
